US09382238B2
To a mixture of 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (1.060 g, 2.58 mmol) and 3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-amine (0.5 g, 2.58 mmol) in pyridine (20 mL) was added T3P® (50% in EA, 5 mL, 2.58 mmol) dropwise and stirred at 25° C. for 1 h. The mixture was poured into stirring cold water (100 mL). The mixture was stirred for 0.5 h and left standing for 10 h. The resulting solid was filtered, washed with H2O (200 mL×3) and TBME (200 mL×2) and dried in vacuo to give an off white solid 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide (1.5 g, 2.298 mmol, 89% yield): 1H NMR (400 MHz, CD3OD): δ 7.96 (s, 1H), 7.40-7.32 (m, 3H), 7.28 (d, J=9.6 Hz, 2H), 6.91 (d, J=8.8 Hz, 2H), 6.45 (s, 1H), 6.38 (s, 1H), 5.27 (s, 2H), 4.12 (q, J=7.2 Hz, 2H), 3.83 (s, 2H), 3.79 (s, 3H), 1.53 (s, 6H), 1.37 (t, J=6.8 Hz, 3H). ES-LCMS m/z: 588 (M+H).

reactant | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 2.58 mmol, 1.060 g | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-amine | 2.58 mmol, 0.5 g | FC(C(C)(C)C1=NOC(=C1)N)(F)F | C7H9F3N2O
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | water | 100 mL | O | H2O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(4-(4-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)isoxazol-5-yl)acetamide | 2.298 mmol, 1.5 g, 89% yield | C(C)OC1=C(C=NC(=C1)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NO1)C(C(F)(F)F)(C)C)F | C30H29F4N3O5
